US08048909B2
2-Methyl-5-phenyl-1-(phenylsulfonyl)-1H-pyrrole-3-carbaldehyde
Using ethyl 2-methyl-5-phenyl-1H-pyrrole-3-carboxylate and benzenesulfonyl chloride, a procedure as in Reference Example 4 was performed to synthesize ethyl 2-methyl-5-phenyl-1-(phenylsulfonyl)-1H-pyrrole-3-carboxylate, and procedures as in Reference Examples 5 and 6 were sequentially performed to give the title compound as a colorless oil.

reactant | ethyl 2-methyl-5-phenyl-1H-pyrrole-3-carboxylate | CC=1NC(=CC1C(=O)OCC)C1=CC=CC=C1 | C14H15NO2
reactant | benzenesulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | ethyl 2-methyl-5-phenyl-1-(phenylsulfonyl)-1H-pyrrole-3-carboxylate | CC=1N(C(=CC1C(=O)OCC)C1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1 | C20H19NO4S
product | 2-Methyl-5-phenyl-1-(phenylsulfonyl)-1H-pyrrole-3-carbaldehyde | CC=1N(C(=CC1C=O)C1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1 | C18H15NO3S
